US05162532
To a solution of 0.46 mL (3.30 mmol) of diisopropylamine in 8 mL of THF at 0° C. Was added 1.53 mL (3.30 mmol) of n-BuLi dropwise. After 20 min the solution was cooled to -78° C. and 2-chloroquinoline (491 mg, 3.0 mmol) was added neat. The mixture was stirred at -78° C. for 30 min, then dimethylformamide (0.39 mL, 5.04 mmol) was added dropwise and the reaction mixture was stirred an additional 30 min at this temperature. After quenching at -78° C. with glacial acetic acid (1 mL), the mixture was warmed to room temperature and diluted with ether (30 mL). The organic phase was washed with saturated NaHCO3 solution (10 mL) and brine (10 mL), and was dried over MgSO4. Concentration afforded 2-chloro-3-quinolinecarboxaldehyde (530 mg, 92%) as a light yellow solid (mp 145°-149 ° C.), which was used directly in the next step without further purification. Recrystallization from ethyl acetate afforded the pure compound as light yellow needles: mp 149°-150° C. (mp 148°-149° C. reported in Meth-Cohn, O.; Narhe, B.; Tarnowski, B. J. Chem. Soc. Perkin Trans. I 1981, 1520.). 1H NMR (300 MHz, CDCl3) δ 10.57 (s, 1H), 8.77 (s, 1H), 8.08 (d, 1H, J=9 Hz), 8.0 (d, 1H, J=9 Hz), 7.90 (t, 1H, J=9 Hz), 7.67 (t, 1H, J=9 Hz); IR (nujol) 1685, 1575, 1045, 760, 745 cm-1.

reactant | diisopropylamine | 3.30 mmol, 0.46 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 3.30 mmol, 1.53 mL | [Li]CCCC
reactant | 2-chloroquinoline | 3.0 mmol, 491 mg | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | dimethylformamide | 5.04 mmol, 0.39 mL | CN(C=O)C | C3H7NO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 2-chloro-3-quinolinecarboxaldehyde | 530 mg, 92% | ClC1=NC2=CC=CC=C2C=C1C=O | C10H6ClNO
